US20010011090A1
An n-butyl lithium-n-hexane solution (1.6 M) was added to a mixture of 3-(2-thienyl)-5-trifluoromethyl-1H-pyrazole and THF at −60° C. or below, followed by stirring at 0° C. for 50 minutes. Ethyl chloroformate was added to the reaction solution at −60° C. or below. After stirring at −78° C. for 1 hour, it was subjected to purification in the usual way to give a mixture of ethyl 5-(1-ethoxycarbonyl-5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate and ethyl 5-(1-ethoxycarbonyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carboxylate as a light yellow solid. Then, a mixture of this mixture with sodium bicarbonate, ethanol, 1,4-dioxane and water was stirred at room temperature for 3 days, and it was subjected to purification in the usual way to give ethyl 5-(5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate as colorless powder crystals. This was hydrolyzed with a base in the usual way to give 5-(5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylic acid.

reactant | n-butyl lithium-n-hexane | 1.6 M | CCCCCC.C(CCC)[Li]
reactant | 3-(2-thienyl)-5-trifluoromethyl-1H-pyrazole | S1C(=CC=C1)C1=NNC(=C1)C(F)(F)F | C8H5F3N2S
reactant | Ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | ethyl 5-(1-ethoxycarbonyl-5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate | C(C)OC(=O)N1N=C(C=C1C(F)(F)F)C1=CC=C(S1)C(=O)OCC | C14H13F3N2O4S
reactant | ethyl 5-(1-ethoxycarbonyl-3-trifluoromethyl-1H-pyrazol-5-yl)thiophene-2-carboxylate | C(C)OC(=O)N1N=C(C=C1C1=CC=C(S1)C(=O)OCC)C(F)(F)F | C14H13F3N2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | ethanol | C(C)O | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 5-(5-trifluoromethyl-1H-pyrazol-3-yl)thiophene-2-carboxylate | FC(C1=CC(=NN1)C1=CC=C(S1)C(=O)OCC)(F)F | C11H9F3N2O2S
